US05643932
To a solution of 1 g of 2-(3,4-diethoxyphenyl)-4-(3-methoxycarbonyl-4-hydroxy-4-allylphenyl)thiazole in 20 ml of methanol and 20 ml of tetrahydrofuran were added 0.5 ml of osmium tetroxide (a 4% aqueous solution) and 1.22 g of 4-methylmorpholine N-oxide. The mixture was stirred at room temperature for 4 hours. The solvent was removed by distillation. The residue was mixed with 50 ml of dichloromethane and 25 ml of water for phase separation. The organic layer was washed with 25 ml of a saturated aqueous sodium chloride solution and dried. The solvent was removed by distillation. The residue was purified by silica gel column chromatography (eluent: dichloromethane/methanol =199/1) to obtain 860 mg of 2-(3,4-diethoxyphenyl)-4-(3-methoxycarbonyl-4-hydroxy-5-(2,3-dihydroxypropyl)phenyl]thiazole.

reactant | 2-(3,4-diethoxyphenyl)-4-(3-methoxycarbonyl-4-hydroxy-4-allylphenyl)thiazole | 1 g | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=CC(C(C=C1)(CC=C)O)C(=O)OC | C24H27NO5S
reactant | 4-methylmorpholine N-oxide | 1.22 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | methanol | 20 ml | CO | CH4O
catalyst | osmium tetroxide | 0.5 ml | [Os](=O)(=O)(=O)=O
product | 2-(3,4-diethoxyphenyl)-4-(3-methoxycarbonyl-4-hydroxy-5-(2,3-dihydroxypropyl)phenyl]thiazole | 860 mg | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=CC(=C(C(=C1)CC(CO)O)O)C(=O)OC | C24H27NO7S
